US08492554B2
Intermediate 120: 3-ethyl 2-(phenylmethyl) (3S)-8-oxa-2-azaspiro[4.5]decane-2,3-dicarboxylate
Ethyl 8-oxa-2-azaspiro[4.5]decane-3-carboxylate (3.54 g, 16.6 mmol) was dissolved in dry dichloromethane (80 mL), triethylamine (5.8 mL, 41.5 mmol) was added followed by benzylchloroformate (3.5 mL, 24.9 mmol) and the reaction is stirred at room temperature for 2 h under nitrogen. The reaction was diluted with dichloromethane, washed with 0.2 N HCl, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with 20-100% hexanes/EtOAc to afford a yellow oil. The racemate was then separated by chiral HPLC on a 10 μm OD column eluting with 25% isopropanol in hexanes to afford the title compound as a clear oil (1.66 g, 29% yield).

reactant | Ethyl 8-oxa-2-azaspiro[4.5]decane-3-carboxylate | 16.6 mmol, 3.54 g | C1NC(CC12CCOCC2)C(=O)OCC | C11H19NO3
reactant | triethylamine | 41.5 mmol, 5.8 mL | C(C)N(CC)CC | C6H15N
reactant | benzylchloroformate | 24.9 mmol, 3.5 mL | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 3-ethyl 2-(phenylmethyl) (3S)-8-oxa-2-azaspiro[4.5]decane-2,3-dicarboxylate | 1.66 g, 29% yield | C1N([C@@H](CC12CCOCC2)C(=O)OCC)C(=O)OCC2=CC=CC=C2 | C19H25NO5
